US05112834
43. (+)-(1S,2S)-3-formyl-2-methyl-8-(2-hydroxy-1,2,3,4-tetrahydro-1-naphthyloxy)-imidazo[1,2-a]pyridine
580 mg of 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine and 580 mg of (+)-1R,2S-1,2,3,4-tetrahydro-naphthaline-1,2-oxide are reacted, analogously to the method described in Example 21, with 340 mg triethylamine in 43 ml of aqueous methanol (35 ml methanol+8 ml water) at 60° C. After 8 hours the mixture is worked up as described in Example 41. After stirring with petroleum ether and drying in high vacuum, 250 mg of the title compound is isolated. [α]D22 =+38° (c=1, chloroform).

reactant | 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine | 580 mg | C(=O)C1=C(N=C2N1C=CC=C2O)C | C9H8N2O2
reactant | triethylamine | 340 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 43 ml | CO | CH4O
product | (+)-(1S,2S)-3-formyl-2-methyl-8-(2-hydroxy-1,2,3,4-tetrahydro-1-naphthyloxy)-imidazo[1,2-a]pyridine | 250 mg | C(=O)C1=C(N=C2N1C=CC=C2O[C@@H]2[C@H](CCC1=CC=CC=C21)O)C | C19H18N2O3
